US04311698
The silylated derivative of 6-(4-aminophenyl)-1,2-dihydro-2-oxonicotinic acid in 70 ml dichloromethane is added to a mixed anhydride prepared from N-Acetyl-D-asparagine 3.5 g (20 m mol), N-methylmorpholine 2.2 ml (20 m mol) in 50 ml N,N-dimethylacetamide and isobutyl chloroformate 2.9 ml (22 m mol) by stirring at 5° C. for 1 hr and 3 hrs at room temperature. Next 20 ml of isopropanol is added and the reaction mixture evaporated. Water is added to the residue and the mixture filtered. After recrystallization from N,N-dimethylacetamide MeOH, 1.8 g of 6-[4-(N-Acetyl-D-asparaginylamino)phenyl]-1,2-dihydro-2-oxonicotinic acid is obtained, m.p. 265°-266° C.

reactant | 6-(4-aminophenyl)-1,2-dihydro-2-oxonicotinic acid | NC1=CC=C(C=C1)C=1NC(C(C(=O)O)=CC1)=O | C12H10N2O3
reactant | N-Acetyl-D-asparagine | 3.5 g | C(C)(=O)N[C@H](CC(N)=O)C(=O)O | C6H10N2O4
reactant | N-methylmorpholine | 2.2 ml | CN1CCOCC1 | C5H11NO
reactant | isopropanol | 20 ml | C(C)(C)O | C3H8O
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
solvent | N,N-dimethylacetamide | 50 ml | CN(C(C)=O)C | C4H9NO
solvent | isobutyl chloroformate | 2.9 ml | ClC(=O)OCC(C)C | C5H9ClO2
product | 6-[4-(N-Acetyl-D-asparaginylamino)phenyl]-1,2-dihydro-2-oxonicotinic acid | 1.8 g | C(C)(=O)N[C@H](CC(N)=O)C(=O)NC1=CC=C(C=C1)C=1NC(C(C(=O)O)=CC1)=O | C18H18N4O6
